US07053089B2
4-[(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester
EXAMPLE 87 was prepared from 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester and 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (4-chloro-7H-pyrrolo[2,3-d]pyrimidine was prepared according to U. Lupke, F. Seela, Chem. Ber., 112:3832–3839(1979): MS (m+1)=366.

reactant | 4-aminomethyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN | C14H20N2O2
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
product | 4-[(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CNC=1C2=C(N=CN1)NC=C2 | C20H23N5O2
